US09029405B2
Step 1: 4-[1-(methylamino)ethyl]benzonitrile
In THF (50 mL), was added 4-acetylbenzonitrile (5.0 g; 34 mmol), methylamine (20.5 mL; 2 M; 41 mmol) and titanium (IV) isopropoxide (5.6 mL; 18.9 mmol). The mixture was stirred overnight at RT. Sodium borohydride (5.5 g; 145 mmol) was added and the reaction was stirred at RT for 2 h. Ammonium hydroxide solution 25% (100 mL) was added and the reaction was stirred at RT for 1 h30. It was then filtered through a pad of celite which was washed 3 times with EtOAc. The filtrate was poured in a separatory funnel and the organic phase was washed with a saturated solution of NaHCO3 and brine, dried over MgSO4, filtered and concentrated under reduce pressure affording the title compound as a light yellow oil (5.4 g; 97%). It was used in the next step without further purification.

reactant | 4-acetylbenzonitrile | 34 mmol, 5.0 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | methylamine | 41 mmol, 2 M, 20.5 mL | CN | CH5N
reactant | Sodium borohydride | 145 mmol, 5.5 g | [BH4-].[Na+]
reactant | Ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | titanium (IV) isopropoxide | 18.9 mmol, 5.6 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-[1-(methylamino)ethyl]benzonitrile | 5.4 g, 97% | CNC(C)C1=CC=C(C#N)C=C1 | C10H12N2
